US06534546B1
Synthesis of N-(3-nitrophenylmethyl)ethylamine
Using m-nitrobenzaldehyde as a starting material and also using ethylamine hydrochloride as a reagent, the same procedure of Example 42 gave 2.8 g of the titled compound (yield, 47%).

reactant | m-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethylamine hydrochloride | Cl.C(C)N
product | N-(3-nitrophenylmethyl)ethylamine | 2.8 g, 47% | [N+](=O)([O-])C=1C=C(C=CC1)CNCC | C9H12N2O2
